US07981874B2
N-Benzyl-2-(diisopropylphosphoryl)-N-methylethanamine.
Diisopropyl(vinyl)phosphine oxide (1.00 g, 6.24 mmol) was combined with N-methylbenzylamine (1.61 mL, 12.48 mmol) in a microwave vial and heated at 200° C. for 4 h total (reaction progress checked after 2 h). The crude mixture was directly purified by flash chromatography (0-10% MeOH/CH2Cl2). Coelution of the product with minor impurities required a second column (0-10% MeOH (w/2 N NH3)/CH2Cl2) to give clean product as a yellow oil. 1H NMR (CDCl3, 600 MHz) δ 7.30-7.20 (m, 5H), 3.50 (s, 2H), 2.76-2.70 (m, 2H), 2.20 (s, 3H), 2.00-1.92 (m, 2H), 1.90-1.84 (m, 2H), 1.17 (dd, J=14.6, 7.2 Hz, 6H), 1.12 (dd, J=15.1, 7.1 Hz, 6H). MS: cal'd 282 (MH+), exp 282 (MH+).

reactant | Diisopropyl(vinyl)phosphine oxide | 6.24 mmol, 1.00 g | C(C)(C)P(C=C)(C(C)C)=O | C8H17OP
reactant | N-methylbenzylamine | 12.48 mmol, 1.61 mL | CNCC1=CC=CC=C1 | C8H11N
product | N-Benzyl-2-(diisopropylphosphoryl)-N-methylethanamine | C(C1=CC=CC=C1)N(CCP(=O)(C(C)C)C(C)C)C | C16H28NOP
